US07696240B2
3-Methyl-1-naphthalen-1-ylmethyl-1H-indole-2-carboxylic acid
Using general procedure B, 3-methyl-1H-indole-2-carboxylic acid ethyl ester was coupled with 1-bromomethyl-naphthalene and the product obtained was hydrolyzed to give the title compound as a white solid. MS: 314.1 ([M−H]−).

reactant | 3-methyl-1H-indole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1NC2=CC=CC=C2C1C | C12H13NO2
reactant | 1-bromomethyl-naphthalene | BrCC1=CC=CC2=CC=CC=C12 | C11H9Br
product | 3-Methyl-1-naphthalen-1-ylmethyl-1H-indole-2-carboxylic acid | CC1=C(N(C2=CC=CC=C12)CC1=CC=CC2=CC=CC=C12)C(=O)O | C21H17NO2
